US05610192
Synthesis of 3-Hydroxy-2-naphthoic (2, 6-dihydroxy-1-naphthylmethylene) hydrazide (III79A)
Following the general procedure of Example 1, condensation of 2, 6-dihydroxy-1-naphthaldehyde and 3-hydroxy-2-naphthoic hydrazide yielded a yellow solid (72%): mp>280° C.; 1H NMR d 11.89 (s, 1 H), 11.75 (br s, 1 H), 10.90 (br s, 1 H), 9.14 (s, 1 H), 9.03 (s, 1 H), 8.06 (s, 1 H), 7.75 (d, 1 H, J=9.0 Hz), 7.48 (d, 1 H, J=8.4 Hz), 7.33 (d, 1 H, J=8.4 Hz), 7.28 (d, 1 H, J=9.0 Hz), 7.07 (t, 1 H, J=7.6 Hz), 6.92 (t, 1 H, J=7.4 Hz), 6.75-6.67 (m, 3 H), 6.90 (m, 2 H); 13C NMR d 163.06, 155.90, 153.93, 153.44, 147.82, 135.94, 131.34, 130.57, 129.35, 128.69, 128.34, 126.81, 125.87, 125.66, 123.88, 122.58, 119.86, 119.68, 119.04, 110.62, 110.45, 108.82; HRMS Calcd for C22H16N2O4 :372.1110, found 372.1095; Anal. (C22H16N2O4 0.4 H2O) C, H, N.

reactant | 2, 6-dihydroxy-1-naphthaldehyde | OC1=C(C2=CC=C(C=C2C=C1)O)C=O | C11H8O3
reactant | 3-hydroxy-2-naphthoic hydrazide | OC=1C(=CC2=CC=CC=C2C1)C(=O)NN | C11H10N2O2
product | 3-Hydroxy-2-naphthoic (2, 6-dihydroxy-1-naphthylmethylene) hydrazide | 72% | OC1=C(C2=CC=C(C=C2C=C1)O)C=NNC(=O)C1=CC2=CC=CC=C2C=C1O | C22H16N2O4
